US07943619B2
a) 3-(5-Fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester
To a solution of N-chlorosuccinimide (17.34 g, 130 mmol) in DMF (128 mL) was added 5-fluoro-pyridine-2-carbaldehyde oxime (18.2 g, 130 mmol) portionwise over 2 h at room temperature and as the reaction warmed up to 60° C. the mixture was cooled back to room temperature with an ice-water bath and the resulting mixture was then stirred for 64 h at room temperature. To this solution was then added ethyl 3-(N,N-dimethylamino)acrylate (18.6 g, 130 mmol) and triethylamine (36.2 mL, 260 mmol) in chloroform (64 mL) and the resulting mixture was then stirred for 1 h at room temperature and poured onto a mixture of ice water and HCl (4 N, 1 L) and extracted with ethylacetate. The organic extract was then washed with water, saturated aqueous sodium hydrogen carbonate solution, brine, dried with sodium sulfate, filtered and evaporated. Purification by chromatography (SiO2, heptane:ethylacetate=100:0 to 1:1) afforded the title product (21.96 g, 72%) which was obtained as a yellow solid. MS: m/e=237.1 [M+H]+.

reactant | N-chlorosuccinimide | 130 mmol, 17.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 5-fluoro-pyridine-2-carbaldehyde oxime | 130 mmol, 18.2 g | FC=1C=CC(=NC1)C=NO | C6H5FN2O
reactant | ethyl 3-(N,N-dimethylamino)acrylate | 130 mmol, 18.6 g | CN(C)C=CC(=O)OCC | C7H13NO2
reactant | triethylamine | 260 mmol, 36.2 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 4 N, 1 L | Cl | ClH
solvent | DMF | 128 mL | CN(C)C=O | C3H7NO
solvent | chloroform | 64 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-Fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester | 21.96 g, 72% | C(C)OC(=O)C=1C(=NOC1)C1=NC=C(C=C1)F | C11H9FN2O3
